US08071595B2
To a stirred solution of 2-(4-(quinolin-2-ylmethoxy)phenyl)acetyl chloride (2.0 g, 6.557 mmol) in DCM (50 mL), DMAP (1.4 g, 13.114 mmol) was added followed by methyl 1-hydroxycyclopropanecarboxylate (1.1 g, 9.836 mmol) under a nitrogen atmosphere at RT and the mixture was stirred for 14 h. After complete consumption of the starting material (by TLC), the reaction mixture was quenched with water (10 mL) and the aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were washed with a saturated NaHCO3 solution (20 mL) and brine (20 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to afford crude methyl 1-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetoxy)cyclopropanecarboxylate (2.0 g,) as a solid.

reactant | 2-(4-(quinolin-2-ylmethoxy)phenyl)acetyl chloride | 6.557 mmol, 2.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)Cl | C18H14ClNO2
reactant | methyl 1-hydroxycyclopropanecarboxylate | 9.836 mmol, 1.1 g | OC1(CC1)C(=O)OC | C5H8O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 13.114 mmol, 1.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 1-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetoxy)cyclopropanecarboxylate | 2.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)OC1(CC1)C(=O)OC | C23H21NO5
